US03959267
vmax (CHCl3) 3400, 1765, 1730 cm-1. iv. 1-(1-Hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one (0.44g) was dissolved in a 1:1 mixture of dry tetrahydrofuran and dioxan (10ml) and the solution, under nitrogen, was cooled to -10°. Pyridine (0.2g) in dry dioxan (2.5ml) was added, followed by the dropwise addition of thionyl chloride (0.19ml) in dioxan (2.5ml) over 2-3 minutes. After a further 15 minutes the precipitated solid was filtered off and the filtrate evaporated to dryness. Dry toluene was added to the residue and decanted off from any solid. The organic solution was evaporated to dryness and re-evaporation from dry ether gave 1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one as an amorphous solid (0.45g).

reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
reactant | 1-(1-Hydroxy-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one | 0.44g | OC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H34N2O4S
reactant | Pyridine | 0.2g | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.19ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dioxan | 10ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 2.5ml | O1CCOCC1 | C4H8O2
solvent | dioxan | 2.5ml | O1CCOCC1 | C4H8O2
product | 1-(1-chloro-1-t-butoxycarbonylmethyl)-3-(triphenylmethylamino)-4-(but-2-ynylthio)azetidin-2-one | 0.45g | ClC(C(=O)OC(C)(C)C)N1C(C(C1SCC#CC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C32H33ClN2O3S
